US05017579
(c) 2-{4-[3-(di-n-butylamino)propyloxy]benzenesulphonyl}pyridine oxalate
To a solution of 0.0085 mol of 2-(4-hydroxy-benzenesulphonyl)pyridine in 50 ml of dimethylsulphoxide, were added 3 g of finely crushed anhydrous potassium carbonate. The mixture was then maintained under stirring for 30 min and 0.015 mol of 1-chloro-3-(di-n-butylamino)propane was added. Stirring was still maintained for 24 hours and the reaction mixture was then poured into water and extracted with ethyl ether. The organic layer was washed with water, dried on sodium sulphate and filtered. After the filtrate was evaporated, the desired product so obtained was purified by chromatography on a silica column using methanol as eluent. The pure base so obtained was then transformed into an oxalate by addition of oxalic acid in ethyl ether.

reactant | 2-(4-hydroxy-benzenesulphonyl)pyridine | 0.0085 mol | OC1=CC=C(C=C1)S(=O)(=O)C1=NC=CC=C1 | C11H9NO3S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 1-chloro-3-(di-n-butylamino)propane | 0.015 mol | ClCCCN(CCCC)CCCC | C11H24ClN
reactant | water | O | H2O
solvent | dimethylsulphoxide | 50 ml | CS(=O)C | C2H6OS
product | 2-{4-[3-(di-n-butylamino)propyloxy]benzenesulphonyl}pyridine oxalate | C(C(=O)O)(=O)O.C(CCC)N(CCCOC1=CC=C(C=C1)S(=O)(=O)C1=NC=CC=C1)CCCC | InChI=1S/C22H32N2O3S.C2H2O4/c1-3-5-16-24(17-6-4-2)18-9-19-27-20-11-13-21(14-12-20)28(25,26)22-10-7-8-15-23-22;3-1(4)2(5)6/h7-8,10-15H,3-6,9,16-19H2,1-2H3;(H,3,4)(H,5,6)
